US04668397
To 50 ml of a solution of 2.79 g (0.0078 mol) of tertiary butyloxycarbonylglycine dicyclohexylamine salt and 3.96 g (0.0078 mol) of ε-benzyloxycarbonyl-L-lysyl-sarcosyl-L-proline methyl ester hydrochloride in chloroform, 5 ml of a solution of 1.61 g (0.0078 mol) of dicyclohexylcarbodiimide in chloroform was added at -10° C. Thereafter, the resultant mixture was treated by the procedure followed in the preparation of α-tertiary butyloxycarbonyl-ε-benzyloxycarbonyl-L-lysylsarcosyl-L-proline methyl ester in (A) above including such step as stirring at -10° C. for five hours and at room temperature overnight, for example. Consequently, there was obtained 3.55 g (yield 73%) of tertiary butyloxycarbonylglycyl-ε-benzyloxycarbonyl-L-lysyl-sarcosyl-L-proline methyl ester in white solid form having a melting point of 52° to 54° C.

reactant | tertiary butyloxycarbonylglycine dicyclohexylamine salt | 0.0078 mol, 2.79 g | C1(CCCCC1)NC1CCCCC1.C(C)(C)(C)OC(=O)NCC(=O)O
reactant | ε-benzyloxycarbonyl-L-lysyl-sarcosyl-L-proline methyl ester hydrochloride | 0.0078 mol, 3.96 g | Cl.COC([C@H]1N(CCC1)C(CN(C)C([C@@H](N)CCCC(N)C(=O)OCC1=CC=CC=C1)=O)=O)=O
reactant | dicyclohexylcarbodiimide | 0.0078 mol, 1.61 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | α-tertiary butyloxycarbonyl-ε-benzyloxycarbonyl-L-lysylsarcosyl-L-proline methyl ester | COC([C@H]1N(CCC1)C(CN(C)C([C@@](N)(CCCC(N)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C)=O)=O)=O | C28H42N4O8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | tertiary butyloxycarbonylglycyl-ε-benzyloxycarbonyl-L-lysyl-sarcosyl-L-proline methyl ester | 3.55 g, yield 73% | COC([C@H]1N(CCC1)C(CN(C)C([C@@H](NC(CNC(=O)OC(C)(C)C)=O)CCCC(N)C(=O)OCC1=CC=CC=C1)=O)=O)=O | C30H45N5O9
